US03957750
Preparation of Di(1-t-butylazo-1-cyclohexyl Sulfide ##SPC19##
A solution of 1.56 grams (.02 moles) of sodium sulfide in 50 ml. of 75% aqueous methanol was prepared in a 200 ml. beaker and cooled to 15°C. To this solution was added 8.2 grams (.0404 moles) of 1-t-butylazo-1-chlorocyclohexane dropwise over a 15 minute period. After the addition was complete, the reaction was stirred for 45 minutes at room temperature and poured into 100 ml. of cold water. A solid formed and was filtered off and dried. The dried material weighed 2.2 grams (30% yield). The infrared spectrum of the product was in agreement with the structure of the desired compound.

reactant | sodium sulfide | .02 moles, 1.56 grams | [S-2].[Na+].[Na+]
reactant | methanol | CO | CH4O
reactant | 1-t-butylazo-1-chlorocyclohexane | .0404 moles, 8.2 grams | C(C)(C)(C)N=NC1(CCCCC1)Cl | C10H19ClN2
solvent | water | O | H2O
product | 1-t-butylazo-1-cyclohexyl Sulfide | 30% yield | C(C)(C)(C)N=NC1(CCCCC1)SC1(CCCCC1)N=NC(C)(C)C | C20H38N4S
